US08003649B2
TFA (2.42 ml, 31.4 mmol) was added to a stirred solution of (1R,5S)-tert-butyl 3-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (443 mg, 1.11 mmol) in DCM (4.50 ml) at 25° C. The resulting solution was stirred at ambient temperature for 18 hours. The reaction mixture was diluted with methanol and the crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted using 7M ammonia in methanol and evaporated to dryness to afford 6-[(1R,5S)-3,8-diazabicyclo[3.2.1]oct-3-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (336 mg, 100%) as a white solid.

reactant | TFA | 31.4 mmol, 2.42 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1R,5S)-tert-butyl 3-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 1.11 mmol, 443 mg | FC(C1=NN=C2N1N=C(C=C2)N2C[C@H]1CC[C@@H](C2)N1C(=O)OC(C)(C)C)(F)F | C17H21F3N6O2
solvent | DCM | 4.50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 6-[(1R,5S)-3,8-diazabicyclo[3.2.1]oct-3-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 336 mg, 100% | [C@H]12CN(C[C@H](CC1)N2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F | C12H13F3N6
